US06747023B1
1-[(5-Chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine
To a methylene chloride solution (150 ml) of 2-(2-methylpropyl)piperazine hydrochloride (1.50 g) were added 5-chloro-1-phenylsulfonylindole-2-sulfonyl chloride (2.72 g) and triethylamine (2.91 ml). The resulting mixture was stirred at room temperature for 13 hours. Distilled water and methylene chloride were added and the water layer was extracted three times. The organic layers were combined, washed with saturated aqueous NaCl solution, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (methanol:methylene chloride=1:20), whereby the title compound (2.69 g) was obtained as a brown oil.

reactant | 2-(2-methylpropyl)piperazine hydrochloride | 1.50 g | Cl.CC(CC1NCCNC1)C
reactant | 5-chloro-1-phenylsulfonylindole-2-sulfonyl chloride | 2.72 g | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)Cl | C14H9Cl2NO4S2
reactant | triethylamine | 2.91 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-[(5-Chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine | ClC=1C=C2C=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)N1CC(NCC1)CC(C)C | C22H26ClN3O4S2
